US07842696B2
DIPEA (76.2 mg, 0.09 mL, 0.59 mmol) was added to a stirred solution of 4-(1-methyl-1H-pyrazol-4-yl)-benzoic acid (40 mg, 0.19 mmol) in DMF (1 mL). HOBT (32 mg, 0.23 mmol) and EDCI (46 mg, 0.23 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone trifluoroacetic acid salt (102 mg, 0.23 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 50 mg (50.5% yield) of 4-(1-methyl-1H-pyrazol-4-yl)-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide. LCMS Purity: 90.78%. 1H NMR (DMSO-d6): δ 8.6-8.5 (bt, 1H), 8.3-8.2 (s, 1H), 8.0-7.8 (s, 1H), 7.9-7.84 (m, 3H), 7.8-7.74 (m, 1H), 7.74-7.6 (m, 3H), 7.6-7.5 (m, 1H), 4.2-4.1 (m, 2H), 3.9-3.88 (s, 3H), 3.84-3.68 (m, 2H), 3.68-3.54 (m, 2H), 3.54-3.4 (m, 2H), 3.22-3.0 (m, 2H).

reactant | DIPEA | 0.59 mmol, 0.09 mL, 76.2 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(1-methyl-1H-pyrazol-4-yl)-benzoic acid | 0.19 mmol, 40 mg | CN1N=CC(=C1)C1=CC=C(C(=O)O)C=C1 | C11H10N2O2
reactant | HOBT | 0.23 mmol, 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.23 mmol, 46 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone trifluoroacetic acid salt | 0.23 mmol, 102 mg | FC(C(=O)O)(F)F.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(1-methyl-1H-pyrazol-4-yl)-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 50 mg, 50.5% yield | CN1N=CC(=C1)C1=CC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C25H24F3N5O3
